US04820726
A solution of 2.84 g (4.5 mmol of N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-6-methyl-phenyl}}-1-(4-methoxybenzyl)-tetrazole-5-carboxamide in 90 ml of trifluoroacetic acid and 9 ml of anisole is refluxed for 60 minutes. The reaction mixture is concentrated under reduced pressure, about 150 ml of ether and 300 ml of petroleum ether are added and the crystals are filtered off. The N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-6-methyl-phenyl}}-1H-tetrazole-5-carboxamide thus obtained, of melting point 236°-238° C. (decomposition), is dissolved in 50 ml of tetrahydrofuran, and one equivalent of sodium, dissolved in 5 ml of methanol, is added. After addition of ether, crystallization starts. The sodium salt of N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-6-methyl-phenyl}}-1H-tetrazole-5-carboxamide of melting point 115°-125° C. (decomposition) is thus obtained.

reactant | N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-6-methyl-phenyl}}-1-(4-methoxybenzyl)-tetrazole-5-carboxamide | 4.5 mmol | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=CC2)C)NC(=O)C2=NN=NN2CC2=CC=C(C=C2)OC)C=C1)CCC(F)(F)F)O | C31H32F3N5O6
solvent | trifluoroacetic acid | 90 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 9 ml | C1(=CC=CC=C1)OC | C7H8O
product | N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-6-methyl-phenyl}}-1H-tetrazole-5-carboxamide | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=CC2)C)NC(=O)C2=NN=NN2)C=C1)CCC(F)(F)F)O | C23H24F3N5O5
